### ISSUE TITLE
`MVarId.revert` assigns mvars in the wrong direction

### ISSUE THREAD

**Issue by lenianiva** [leanprover/lean4#5279]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The function `MVarId.revert` should not be assigning mvars other than its argument, but I found a case where this happens. Consider this example, where `?{lhs,rhs}` are `.natural`:
```
| n : Nat
?snd : Eq Prop ?lhs ?rhs
| n : Nat
?lhs : Prop
| n : Nat
?rhs : Prop
```
and if I now execute revert on `?snd` (reverting `n`), I get
```
?snd : forall (n: Nat), Eq Nat ?lhs' ?rhs'
```
with the side effect of assigning `?lhs, ?rhs`. This is suppressed when these mvars are `.syntheticOpaque`.

### Context

https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Collect.20mvars.20during.20a.20tactic/near/468311815

### Steps to Reproduce

This example:
```lean
import Lean
open Lean

def showMVar (name: String) (mvarId: MVarId): MetaM Unit := mvarId.withContext do
  if let .some expr ← getExprMVarAssignment? mvarId then
    IO.println s!"{name} := {← Meta.ppExpr expr}"
  else if let .some a ← getDelayedMVarAssignment? mvarId then
    IO.println s!"{name} ::= {← Meta.ppExpr $ .mvar a.mvarIdPending}"
  else
    IO.println s!"{name} is not assigned"

def metaM: MetaM Unit := do
  let α: Expr := .sort 0
  let nat: Expr := .const `Nat []
  Meta.withLocalDecl `x .default nat $ λ fvar => do
    let lhs: Expr ← Meta.mkFreshExprMVar (type? := .some α) (userName := `lhs)
    let rhs ← Meta.mkFreshExprSyntheticOpaqueMVar α `rhs
    let goalType ← Meta.mkEq lhs rhs
    let goal ← Meta.mkFreshExprSyntheticOpaqueMVar goalType
    IO.println s!"goal: {← Meta.ppExpr $ ← goal.mvarId!.getType}"
    let (_, goal2) ← goal.mvarId!.revert #[fvar.fvarId!]
    goal2.withContext do
      IO.println s!"goal2 : {← Meta.ppExpr $ ← goal2.getType}"
    let .forallE _ _ body _ ← goal2.getType | panic! "This must be a ∀"
    let .some (_, .app lhs' (.bvar _), .app rhs' (.bvar _)) := body.eq? | panic! "Wrong type"
    showMVar "lhs" lhs.mvarId!
    showMVar "rhs" rhs.mvarId!
    showMVar "lhs'" lhs'.mvarId!
    showMVar "rhs'" rhs'.mvarId!

def main : IO Unit := do
  let env: Environment ← importModules
    (imports := #[`Init])
    (opts := {})
    (trustLevel := 1)
  let options: Options := {}
  let options := options.setBool `pp.all true
  let coreM := Meta.MetaM.run' metaM
  let coreContext: Lean.Core.Context := {
    options,
    currNamespace := `Example
    openDecls := [],     -- No 'open' directives needed
    fileName := "<stdin>",
    fileMap := { source := "", positions := #[0] }
  }
  match ← (coreM.run' coreContext { env }).toBaseIO with
  | .error exception =>
    IO.println s!"{← exception.toMessageData.toString}"
  | .ok _ => return ()
```

**Expected behavior:**: `?lhs, ?rhs` do not get assigned. Whatever mvar `revert` generates gets delayed assigned to `?lhs, ?rhs`

**Actual behavior:**: `?lhs` got assigned. `?rhs` was not assigned and the generated mvar (`?rhs'`) is correctly delayed assigned to `?rhs`. This is IMO correct behaviour.

### Versions

This happens on `4.10.0-rc1` and `nightly-2024-09-06`.

### Additional Information

`Meta.withNewMCtxDepth` causes mvar not found errors, so it can't be used as a workaround.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by lenianiva** [comment]
If we could override this conditional on `MetavarContext.lean:1185`
```lean
      if !mvarDecl.kind.isSyntheticOpaque then
        mvarId.assign result
      else
```
we should be able to suppress this behaviour by forcing the eliminator to view all mvars as syntheticOpaque, but I don't know how to inject that information into here.

I have a similar issue in my `Pantograph` project and the solution I found is to `Meta.transform` all mvars in the expr to `.syntheticOpaque` before executing any elimination functions, and then restore the context. It was an ugly solution but I'll take it.

I think in this case it would be handy to have a `withOpaqueOldMVars (counter: Nat): MetaM a -> MetaM a` function, which forces all mvars older than `counter` to be seen as `.syntheticOpaque`.

**Comment by nomeata** [comment]
> Meta.withNewMCtxDepth causes mvar not found errors, so it can't be used as a workaround.

I'm a bit surprised by this. Is there maybe a bug there, either with that function or the meta code that uses it?

Also, to assess the severity, to what extent does this affect users who don't use metaprogramming?

**Comment by kmill** [comment]
@nomeata I'm pretty sure we could cook up an example using tactics. Some tactics (like `apply` if I remember correctly) create natural instead of synthetic metavariables, and following one of those up with `revert` might be able to cause some goals to disappear.

**Comment by lenianiva** [comment]
> > Meta.withNewMCtxDepth causes mvar not found errors, so it can't be used as a workaround.
> 
> I'm a bit surprised by this. Is there maybe a bug there, either with that function or the meta code that uses it?
> 
> Also, to assess the severity, to what extent does this affect users who don't use metaprogramming?

you can try the code by adding `withNewMCtxDepth`. The error says the mvar corresponding to goal2 is not found, which is very surprising.

**Comment by lenianiva** [comment]
> @nomeata I'm pretty sure we could cook up an example using tactics. Some tactics (like `apply` if I remember correctly) create natural instead of synthetic metavariables, and following one of those up with `revert` might be able to cause some goals to disappear.

This is exactly the case I distilled down for this mwe

**Comment by kmill** [comment]
@lenianiva It's helpful having a tactic script version to understand the severity of this issue. If it's only something one arrives at via meta tactics it is lower priority. Being able to recreate it as a normal user means it is a much more serious bug. Here's a mwe:
```lean
def baz (p : Prop) (h : p) : True := trivial

example (n : Empty) : True := by
  apply baz
  revert n
  intro n
  cases n
-- (kernel) declaration has metavariables 'MonadExercise._example'
```

Regarding `withNewMCtxDepth`, something I forgot when I suggested it to you is that it discards metavariables produced inside of it.

And yes, this is a deep issue that affects many tactics. My understanding is of the issue is that goals added to the goal list must all be synthetic opaque, but tactics are failing to ensure this. I'll start an internal discussion to figure out how we'll proceed.

**Comment by lenianiva** [comment]
> @lenianiva It's helpful having a tactic script version to understand the severity of this issue. If it's only something one arrives at via meta tactics it is lower priority. Being able to recreate it as a normal user means it is a much more serious bug. Here's a mwe:
> 
> ```lean
> def baz (p : Prop) (h : p) : True := trivial
> 
> example (n : Empty) : True := by
>   apply baz
>   revert n
>   intro n
>   cases n
> -- (kernel) declaration has metavariables 'MonadExercise._example'
> ```
> 
> Regarding `withNewMCtxDepth`, something I forgot when I suggested it to you is that it discards metavariables produced inside of it.
> 
> And yes, this is a deep issue that affects many tactics. My understanding is of the issue is that goals added to the goal list must all be synthetic opaque, but tactics are failing to ensure this. I'll start an internal discussion to figure out how we'll proceed.

maybe any goal that goals into `replaceMainGoal` or `setGoals` automatically becomes `.syntheticOpaque`?

**Comment by kmill** [comment]
Related thread: https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/MVar.20disappearing.20from.20list.20of.20goals.20after.20a.20.60subst.60/near/464368446

This one is an example of `subst` making goals disappear if they are natural metavariables.
